US06559167B1
Preparation of 2-[p-(chlorosulfonyl)phenoxy]-N-(2-pyridyl)acetamide
1.32 g of 2-(phenoxyacetyl)aminopyridine HCl salt (5 mmole) was resuspended in 10 ml of dichloromethane and 2 ml of chlorosulfonic acid was added in ice-bath to give clear solution. The solution was stirred at room temperature for 3 hr. The reaction mixture was added to ice-water with good stirring to give white solids. The solids were filtered, washed with acetonitrile, and dried in vacuo. 0.65 g of solid was obtained. M. P. 170-175° C. (decomposition)

reactant | 2-(phenoxyacetyl)aminopyridine HCl salt | 5 mmole, 1.32 g | Cl.O(C1=CC=CC=C1)CC(=O)NC1=NC=CC=C1
reactant | chlorosulfonic acid | 2 ml | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-[p-(chlorosulfonyl)phenoxy]-N-(2-pyridyl)acetamide | 0.65 g | ClS(=O)(=O)C1=CC=C(OCC(=O)NC2=NC=CC=C2)C=C1 | C13H11ClN2O4S
